US09428510B2
769 mg (3.12 mmol) of m-chloroperbenzoic acid (mCPBA) is added under argon to a stirring solution of 786 mg (2.83 mmol) of 6-(2,4-difluorophenylamino)-2-(methylthio)nicotinonitrile in 25 mL of dichloromethane. The reaction medium is stirred 1 hour at room temperature before adding a fraction of ethyl acetate and washed this organic phase with a NaHCO3 saturated solution. The combined organic phases are dried on magnesium sulfate and dry evaporated. The crude reaction product is dissolved again in 10 mL of propanol and 2 equivalents of hydrazine hydrochloride in water are added. The mixture is heated at 90° C. for 6 hours before being diluted in water and extracted with ethyl acetate. The organic phase is dried on magnesium sulfate and dry evaporated before being purified by silica gel chromatography to yield 495 mg of N6-(2,4-difluorophenyl)-1H-pyrazolo[3,4-b]pyridine-3,6-diamine in the form of a yellow-orange solid (67%).

reactant | m-chloroperbenzoic acid | 3.12 mmol, 769 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 6-(2,4-difluorophenylamino)-2-(methylthio)nicotinonitrile | 2.83 mmol, 786 mg | FC1=C(C=CC(=C1)F)NC1=NC(=C(C#N)C=C1)SC | C13H9F2N3S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrazine hydrochloride | 2 equivalents | Cl.NN
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | propanol | 10 mL | C(CC)O | C3H8O
solvent | water | O | H2O
product | N6-(2,4-difluorophenyl)-1H-pyrazolo[3,4-b]pyridine-3,6-diamine | 495 mg | FC1=C(C=CC(=C1)F)NC1=CC=C2C(=N1)NN=C2N | C12H9F2N5
